US08044079B2
A) 2-(3-Bromo-4-methoxyphenyl)-5,5-dimethyl-[1,3]dioxane
3-Bromo-4-methoxybenzaldehyde (60.0 g, 279 mmol) was dissolved in toluene (600 mL), and after addition of neopentyl glycol (32.0 g, 306 mmol) and Amberlyst-15 (3.6 g) the reaction mixture was heated under reflux for 2 hours on a water separator. After cooling, the reaction mixture was filtered, washed twice with water, and then concentrated under reduced pressure. The oil residue was combined with heptane, and the product which precipitated was filtered off and washed with heptane.

reactant | 3-Bromo-4-methoxybenzaldehyde | 279 mmol, 60.0 g | BrC=1C=C(C=O)C=CC1OC | C8H7BrO2
reactant | neopentyl glycol | 306 mmol, 32.0 g | OCC(C)(CO)C | C5H12O2
reactant | water | O | H2O
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-Bromo-4-methoxyphenyl)-5,5-dimethyl-[1,3]dioxane | BrC=1C=C(C=CC1OC)C1OCC(CO1)(C)C | C13H17BrO3
